* Z:\mnt\design.r\spice\examples\4686-1.asc
V1 IN 0 12
C1 OUT1 0 330µ
Rload1 OUT1 0 .18
C2 OUT1 0 100µ x3
R1 N005 0 6.34K
C3 OUT0 0 330µ
Rload0 OUT0 0 .1
C4 OUT0 0 100µ x3
R2 N007 N001 10K
R3 N001 N003 10K
R4 N001 N002 10K
XU1 OUT0 0 MP_01 MP_02 N006 MP_03 MP_04 N007 IN MP_05 OUT0 MP_06 MP_07 N003 N002 N006 NC_08 NC_09 N005 NC_10 0 NC_11 N004 IN N001 N004 OUT1 MP_12 NC_13 OUT1 MP_14 MP_15 NC_16 0 IN NC_17 NC_18 NC_19 NC_20 MP_21 0 LTM4686-1
.tran 1.2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTM4675. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 2.5V; value 1 for 3.6V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low and 1 for high;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTM4686-1.sub
.backanno
.end
